US07834030B2
2.2 g 4-Bromomethyl-2-fluoro-benzonitrile were dissolved in 2.0 ml triethyl phosphite and stirred at 150° C. for four hours. Then the triethyl phosphite was removed in vacuo to obtain 2.5 g (4-Cyano-3-fluoro-benzyl)-phosphonic acid diethyl ester as an oil.

reactant | 4-Bromomethyl-2-fluoro-benzonitrile | 2.2 g | BrCC1=CC(=C(C#N)C=C1)F | C8H5BrFN
reactant | triethyl phosphite | 2.0 ml | P(OCC)(OCC)OCC | C6H15O3P
product | (4-Cyano-3-fluoro-benzyl)-phosphonic acid diethyl ester | 2.5 g | C(C)OP(OCC)(=O)CC1=CC(=C(C=C1)C#N)F | C12H15FNO3P
